### PR TITLE
[Merged by Bors] - feat(CategoryTheory): some lemmas about infima/suprema of morphism properties

### PR DESCRIPTION
**Pull request by peabrainiac**
Add some lemmas and instances about arbitrary infima/suprema of morphism properties.

---

In particular, this adds the lemmas about `MorphismProperty.inverseImage` preserving suprema that were left out of #38787.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean [hunk 1]
```diff
@@ -82,13 +86,24 @@ lemma sSup_iff (S : Set (MorphismProperty C)) {X Y : C} (f : X ⟶ Y) :
...
+    iSup W f ↔ ∃ i, W i f :=
+  (sSup_iff (Set.range W) f).trans (by simp)
+
+@[simp]
+lemma inf_iff (W W' : MorphismProperty C) {X Y : C} (f : X ⟶ Y) : (W ⊓ W') f ↔ W f ∧ W' f :=
+  Iff.rfl
+
+@[simp]
+lemma sInf_iff (W : Set (MorphismProperty C)) {X Y : C} (f : X ⟶ Y) :
+    sInf W f ↔ ∀ W' ∈ W, W' f := by
```
Comment (peabrainiac) [inline Mathlib/CategoryTheory/MorphismProperty/Basic.lean]: Do we prefer `∀ W' ∈ W` or `∀ W' : W` here - the former, right? If so, I'll also change the existing dual lemma `sSup_iff` a few lines above, which currently quantifies over a subtype

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean
Comment (peabrainiac) [inline Mathlib/CategoryTheory/MorphismProperty/Basic.lean]: What do we want to do about this instance (and its potential `sInf` / `iInf` counterparts)? It can already be inferred from the other instances in this file, so it seems to me that we do not actually need it. I'd like to either deprecate/remove it or rename it to `RespectsIso.inf` and add `sInf` / `iInf` variants.

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/MorphismProperty/Basic.lean]: `∀ W' ∈ W` looks better to me.

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean
Comment (joelriou) [reply Mathlib/CategoryTheory/MorphismProperty/Basic.lean]: I would say there is no harm having slightly redundant `Prop`-valued instances.

Comment (peabrainiac) [reply Mathlib/CategoryTheory/MorphismProperty/Basic.lean]: Thanks for the comments - I've changed it to `RespectsIso.inf` now and added `sInf`/`iInf` variants.

File: Mathlib/CategoryTheory/MorphismProperty/Basic.lean [hunk 2]
```diff
@@ -70,25 +70,37 @@ lemma top_apply {X Y : C} (f : X ⟶ Y) : (⊤ : MorphismProperty C) f := by
...
 lemma iSup_iff {ι : Sort*} (W : ι → MorphismProperty C) {X Y : C} (f : X ⟶ Y) :
-    iSup W f ↔ ∃ i, W i f := by
-  apply (sSup_iff (Set.range W) f).trans
-  constructor
-  · rintro ⟨⟨_, i, rfl⟩, hf⟩
-    exact ⟨i, hf⟩
-  · rintro ⟨i, hf⟩
-    exact ⟨⟨_, i, rfl⟩, hf⟩
+    iSup W f ↔ ∃ i, W i f :=
+  (sSup_iff (Set.range W) f).trans (by simp)
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/MorphismProperty/Basic.lean]:
```suggestion
  simp [← sSup_range]
```
similarly for `iInf` below

**Comment by joelriou** [comment]
`sSup_iff` can be proven by `simp +instances [MorphismProperty]`.

**Comment by peabrainiac** [comment]
That's good to know, thanks - I hadn't heard about `simp +instances` before :)

I've updated the proofs again now

**Comment by joelriou** [comment]
Thanks!

bors merge
